US07705027B2
Ammonium formate (3.2 g, 50 mmol) was added to a solution of 5-(4,6-bis-benzyloxy-biphenyl-3-yl)-4-(4-methoxy-phenyl)-3-methyl-isoxazole (1.4 g, 2.5 mmol) in methanol (20 ml)/ethyl acetate (10 ml) under a nitrogen atmosphere. Palladium on carbon (10%) (cat.) was added and the suspension heated, at 60° C. for ˜18 hrs. The suspension was allowed to cool and ethyl acetate (150 ml) added, and the suspension filtered. The filtrate was washed with water (3×100 ml) and saturated aqueous sodium chloride solution (50 ml). The solution was dried over anhydrous magnesium sulphate and concentrated to give a pale brown gum. Trituration with methanol gave 7-hydroxy-3-(4-methoxy-phenyl)-2-methyl-6-phenyl-chromen-4-one as an off-white solid, dried in vacuo.

reactant | Ammonium formate | 50 mmol, 3.2 g | C(=O)[O-].[NH4+]
reactant | 5-(4,6-bis-benzyloxy-biphenyl-3-yl)-4-(4-methoxy-phenyl)-3-methyl-isoxazole | 2.5 mmol, 1.4 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=CC=CC=C1)C1=C(C(=NO1)C)C1=CC=C(C=C1)OC | C37H31NO4
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | methanol | 20 ml | CO | CH4O
catalyst | Palladium on carbon | [Pd] | Pd
product | 7-hydroxy-3-(4-methoxy-phenyl)-2-methyl-6-phenyl-chromen-4-one | OC1=C(C=C2C(C(=C(OC2=C1)C)C1=CC=C(C=C1)OC)=O)C1=CC=CC=C1 | C23H18O4
